US07495001B2
D] 2-Methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid methyl ester
5.57 g (19.76 mmol) of the above prepared 3-dimethylamino-1-(3-trifluoromethyl-phenyl)-propan-1-one hydrochloride and 2.28 g (1.00 eq.) of 3-aminocrotonic acid methyl ester were dissolved in 60 ml of AcOH and heated to reflux for 4 h. After cooling, the bulk of the solvent was evaporated i. V., the residue dissolved in AcOEt and washed with water and brine. Drying over sodium sulfate, evaporation of the solvents and flash chromatography (SiO2, hexane/AcOEt=89/11) delivered finally 2.00 g of the title compound as light yellow crystals of mp. 47-49° C. (dec.).

reactant | 3-dimethylamino-1-(3-trifluoromethyl-phenyl)-propan-1-one hydrochloride | Cl.CN(CCC(=O)C1=CC(=CC=C1)C(F)(F)F)C
reactant | 3-aminocrotonic acid methyl ester | 2.28 g, 1.00 eq. | COC(\C=C(\C)/N)=O | C5H9NO2
solvent | AcOH | 60 ml | CC(=O)O | C2H4O2
product | 2-Methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)C1=CC(=CC=C1)C(F)(F)F)C)=O | C15H12F3NO2
